US05387685
α-(3,4-Dimethoxyphenyl)-3,4-dihydro-6,7-dimethoxy-α-[(4-methylphenyl)thio]-2(1H)-isoquinolineoctanenitrile
The procedure of Example 3 is repeated using 4.3 g of α-(5-chlorohexyl)-3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile and 4.25 g of 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride. This affords 3.05 g of the desired product as a golden gum.

reactant | α-(5-chlorohexyl)-3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile | 4.3 g | ClC(CCCCC(C#N)(C1=CC(=C(C=C1)OC)OC)SC1=CC=C(C=C1)C)C | C23H28ClNO2S
reactant | 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 4.25 g | Cl.COC=1C=C2CCNCC2=CC1OC
product | α-(3,4-Dimethoxyphenyl)-3,4-dihydro-6,7-dimethoxy-α-[(4-methylphenyl)thio]-2(1H)-isoquinolineoctanenitrile | 3.05 g | COC=1C=C(C=CC1OC)C(C#N)(CCCCCCN1CC2=CC(=C(C=C2CC1)OC)OC)SC1=CC=C(C=C1)C | C34H42N2O4S
